US09212182B2
A RBF was charged with 1-bromo-3-fluoro-5-methoxybenzene (2.104 g, 10.26 mmol), (3-chlorophenyl)boronic acid (1.765 g, 11.29 mmol), potassium carbonate (4.25 g, 30.8 mmol), and Pd(Ph3P)4 (0.593 g, 0.513 mmol). The flask was flushed with Ar (g), then 1,4-dioxane (25.7 ml) and water (8.55 ml) were added. A reflux condenser was attached, and the flask was lowered into a 90° C. heating bath for 45 min. The mixture was cooled to room temperature, diluted with water, and extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (50-g SNAP Ultra column, 25-g silica gel column, 0-5% EtOAc/Heptane) to give 3′-chloro-3-fluoro-5-methoxy-1,1′-biphenyl (2.47 g, 10.44 mmol, 102% yield) as a clear oil containing about 10 wt % impurities.

reactant | 1-bromo-3-fluoro-5-methoxybenzene | 10.26 mmol, 2.104 g | BrC1=CC(=CC(=C1)OC)F | C7H6BrFO
reactant | (3-chlorophenyl)boronic acid | 11.29 mmol, 1.765 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 30.8 mmol, 4.25 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(Ph3P)4 | 0.513 mmol, 0.593 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-chloro-3-fluoro-5-methoxy-1,1′-biphenyl | 10.44 mmol, 2.47 g, 102% yield | ClC=1C=C(C=CC1)C1=CC(=CC(=C1)OC)F | C13H10ClFO
